US08629137B2
Step 4: 1-piperidin-4-yl-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
690 g (1.96 mol) benzyl 4-(2-oxo-2,3-dihydro-imidazo[4,5-b]pyridin-1-yl)-piperidine-1-carboxylate were dissolved in 5.4 L methanol and hydrogenated with the addition of 46 g Pd/C (10%; 6.6% by weight) at 60° C. under a hydrogen pressure of 60 psi until all the hydrogen had been taken up. The catalyst was filtered off. 4 L methanol were distilled off from the filtrate. 2 L methylcyclohexane were added and a further 1.5 L solvent were distilled off. The suspension thus obtained was suction filtered, the residue was washed with methylcyclohexane and dried at 40° C.

reactant | benzyl 4-(2-oxo-2,3-dihydro-imidazo[4,5-b]pyridin-1-yl)-piperidine-1-carboxylate | 1.96 mol, 690 g | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H20N4O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5.4 L | CO | CH4O
catalyst | Pd/C | 46 g | [Pd] | Pd
product | 1-piperidin-4-yl-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C11H14N4O
